US04816452
a. Ethyl (Z)-2-(terahydro-4H-thiopyran-4-yl oxyimino)-3-oxobutyrate
Ethyl (Z)-2-hydroxyimino-3-oxobutyrate (5.72 g) was reacted with tetrahydro-4H-thiopyran-4-ol as described in Example 4a. method 3 to give the title compound (1.82 g, 20%) as colourless liquid, νmax (film) 2930, 1740, and 1690 cm-1, δH (CDCl3) 1.35 (3H, t), 2.06 (2H,m), 2.21 (2H, m) 2.40 (3H, s), 2.57 (2H, m), 2.82 (2H, m), and 4.37 (3H, q+m), δc (CDCl3) 14.2, 25.2, 25.3 (2C), 32.1 (2C), 62.0, 81.9, 150.5, 161.2 and 192.7. [Mass spectrum, MH+ (260)].

reactant | Ethyl (Z)-2-hydroxyimino-3-oxobutyrate | 5.72 g | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | tetrahydro-4H-thiopyran-4-ol | S1CCC(CC1)O | C5H10OS
product | Ethyl (Z)-2-(terahydro-4H-thiopyran-4-yl oxyimino)-3-oxobutyrate | 1.82 g, 20% | S1CCC(CC1)O\N=C(/C(=O)OCC)\C(C)=O | C11H17NO4S
